US07632838B2
(2R)-4-[4-fluoro-2-(trifluoromethyl)phenyl]-2-methyl-1-[(5-piperidin-4-yl-2-thienyl)sulfonyl]piperazine
Prepared according to the synthesis of Example 29EY in Step 4C from (R)-tert-butyl 4-(5-(4-(4-fluoro-2-(trifluoromethyl)phenyl)-2-methylpiperazin-1-ylsulfonyl)thiophen-2-yl)piperidine-1-carboxylate (150 mg, 0.253 mmol) in DCM (3 mL) and TFA (1 mL), purified by SiO2 column eluted with EtOAc/MeOH to give the titled compound as a white solid (75 mg, 60%). HRMS: calcd for C21H25F4N3O2S2+H+, 492.13970. found (ESI-FTMS, [M+H]1+), 492.14043.

reactant | (R)-tert-butyl 4-(5-(4-(4-fluoro-2-(trifluoromethyl)phenyl)-2-methylpiperazin-1-ylsulfonyl)thiophen-2-yl)piperidine-1-carboxylate | 0.253 mmol, 150 mg | FC1=CC(=C(C=C1)N1C[C@H](N(CC1)S(=O)(=O)C1=CC=C(S1)C1CCN(CC1)C(=O)OC(C)(C)C)C)C(F)(F)F | C26H33F4N3O4S2
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
solvent | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | (2R)-4-[4-fluoro-2-(trifluoromethyl)phenyl]-2-methyl-1-[(5-piperidin-4-yl-2-thienyl)sulfonyl]piperazine | 75 mg, 60% | FC1=CC(=C(C=C1)N1C[C@H](N(CC1)S(=O)(=O)C=1SC(=CC1)C1CCNCC1)C)C(F)(F)F | C21H25F4N3O2S2
